US07786132B2
An opaque solution of 4-pivalamidopyridin-3-yl diethylcarbamodithioate (21.9 g, 67 mmol) in methanol (220 mL) and 1 N sodium hydroxide (220 mL) was stirred at r.t. for 20 h. Tlc showed consumption of starting material. The clear yellow solution was diluted with water (500 mL). After letting the turbid solution stand for 5 min, crystals precipitated out. The solid was filtered off, washed with water (2×50 mL) and diethyl ether (3×50 mL), and air dried to afford 4-aminopyridin-3-yl diethylcarbamodithioate (10.05 g, 62%) as colorless plate like crystals. 1H NMR: δ (CDCl3, 400 MHz) 1.30 (t, J=7 Hz, 3H), 1.44 (t, J=7 Hz, 3H), 3.90 (q, J=7 Hz, 2H), 4.03 (q, J=7 Hz, 2H), 4.68 (br. s., 2H), 6.65 (d, J=5.5 Hz, 1H), 8.25-8.30 (m, 2H).

reactant | 4-pivalamidopyridin-3-yl diethylcarbamodithioate | 67 mmol, 21.9 g | C(C)N(C(=S)SC=1C=NC=CC1NC(C(C)(C)C)=O)CC | C15H23N3OS2
solvent | methanol | 220 mL | CO | CH4O
solvent | sodium hydroxide | 1 N, 220 mL | [OH-].[Na+]
product | 4-aminopyridin-3-yl diethylcarbamodithioate | 10.05 g, 62% | C(C)N(C(=S)SC=1C=NC=CC1N)CC | C10H15N3S2
